US08648099B2
a) (4-Methyl-3-oxo-piperazin-1-yl)-carbamic acid t-butyl ester
Methyl-2-piperazinone hydrochloride (1:1) (300 mg, 1.99 mmol) was combined with dichloromethane (20 mL) to give a light yellow suspension. N,N-Diisopropylethylamine (309 mg, 417 μl, 2.39 mmol) was added at 0° C. Subsequently 3-(4-cyanophenyl)-2-oxaziridinecarboxylic acid 1,1-dimethylethyl ester (441 mg, 1.79 mmol) in dichloromethane (10 mL) was added during 35 min at 0° C. and the reaction mixture was stirred for 1 h at 0° C. Afterwards the reaction mixture was concentrated in vacuo and the residue was purified by flash chromatography (silica gel, 20 g, 0% to 100% ethyl acetate in n-heptane) to deliver an oil contaminated with 4-cyano-benzaldehyde. This material was purified by a second chromatography (aminophase 5 g, ethyl acetate/n-heptane 1/1) to give the title compound (67 mg, 15%) as white solid; GC-MS (EI) 229.0 (M)+.

reactant | Methyl-2-piperazinone hydrochloride | 1.99 mmol, 300 mg | Cl.CN1C(CNCC1)=O
reactant | N,N-Diisopropylethylamine | 2.39 mmol, 417 μl, 309 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(4-cyanophenyl)-2-oxaziridinecarboxylic acid 1,1-dimethylethyl ester | 1.79 mmol, 441 mg | CC(C)(C)OC(=O)N1OC1C1=CC=C(C=C1)C#N | C13H14N2O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (4-Methyl-3-oxo-piperazin-1-yl)-carbamic acid t-butyl ester | 67 mg, 15% | C(C)(C)(C)OC(NN1CC(N(CC1)C)=O)=O | C10H19N3O3
